US05292452
A mixture of 31.1 g of 4-chloro-1-[trans-4-[2-(1,4-dioxa-8-spiro[4.5]decyl)ethyl]cyclohexyl]benzene, 207 ml of toluene and 103 ml of formic acid is stirred at room temperature for 1.25 hours while gassing with nitrogen. Thereafter, the reaction mixture is poured into 500 ml of water and extracted with methylene chloride. The organic phases are washed with saturated sodium hydrogen carbonate solution and with water, dried over sodium sulphate and filtered. Concentration of the filtrate gives 4-[2-[trans-4(4-chlorophenyl)cyclohexyl]ethyl]cyclohexanone.

reactant | 4-chloro-1-[trans-4-[2-(1,4-dioxa-8-spiro[4.5]decyl)ethyl]cyclohexyl]benzene | 31.1 g | ClC1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)CCC1CCC2(OCCO2)CC1 | C22H31ClO2
reactant | toluene | 207 ml | C1(=CC=CC=C1)C | C7H8
reactant | formic acid | 103 ml | C(=O)O | CH2O2
solvent | water | 500 ml | O | H2O
product | 4-[2-[trans-4(4-chlorophenyl)cyclohexyl]ethyl]cyclohexanone | ClC1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)CCC1CCC(CC1)=O | C20H27ClO
